US08420632B2
8.9 g (23.5 mmol) of methyl (S)-2-(4-benzylpiperazin-1-yl)-3-tert-butoxycarbonylaminopropanoate are placed in solution in 60 ml of methanol and in 20 ml of isopropanolic hydrochloric acid having a concentration of 5-6N. The reaction medium is stirred at 40° C. for 18 h and then concentrated under vacuum. 9.0 g (100%) of methyl (S)-3-amino-2-(4-benzylpiperazin-1-yl)propanoate trihydrochloride are obtained in the form of a beige solid.

reactant | methyl (S)-2-(4-benzylpiperazin-1-yl)-3-tert-butoxycarbonylaminopropanoate | 23.5 mmol, 8.9 g | C(C1=CC=CC=C1)N1CCN(CC1)[C@H](C(=O)OC)CNC(=O)OC(C)(C)C | C20H31N3O4
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | methanol | 60 ml | CO | CH4O
product | methyl (S)-3-amino-2-(4-benzylpiperazin-1-yl)propanoate trihydrochloride | 9.0 g, 100% | Cl.Cl.Cl.NC[C@@H](C(=O)OC)N1CCN(CC1)CC1=CC=CC=C1 | InChI=1S/C15H23N3O2.3ClH/c1-20-15(19)14(11-16)18-9-7-17(8-10-18)12-13-5-3-2-4-6-13;;;/h2-6,14H,7-12,16H2,1H3;3*1H/t14-;;;/m0.../s1
